US05576321
Preparation of (2S)-(+)-3-[4-(7-chloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 193 from 7-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.50 g, 2.2 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.41 g, 2.2 mmol). The product was isolated as a white foam. Yield 370 mg (41%). mp 85°-90° C. FDMS m/e=421 (M+ of free base). α[D]589 =+3.62 (c=1.00, methanol/dimethylsulfoxide).

reactant | 7-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.2 mmol, 0.50 g | ClC=1C=CC=C2C(=CNC12)C=1CCNCC1 | C13H13ClN2
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 2.2 mmol, 0.41 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | methanol dimethylsulfoxide | CO.CS(=O)C
product | (2S)-(+)-3-[4-(7-chloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC=1C=CC=C2C(=CNC12)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C24H24ClN3O2
